US06165684
202 g of 1-bromo-4-nitrobenzene and 207 g of 2-bromonaphthalene were subjected to Ullmann coupling using a copper catalyst. The product was purified by a column chromatography to obtain 2-(4-nitrophenyl)naphthalene. The product was reduced using a reduced iron to obtain 2-(4-aminophenyl)naphthalene (yield: 36%).

reactant | 1-bromo-4-nitrobenzene | 202 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 2-bromonaphthalene | 207 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
catalyst | copper | [Cu] | Cu
product | 2-(4-nitrophenyl)naphthalene | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC2=CC=CC=C2C=C1 | C16H11NO2
